US07915264B2
4-Chlorobenzyl bromide (0.1 mol) and dry diethyl ether (200 mL) are placed in a flame-dried, 2-necked round bottomed flask at RT. The solution is stirred under an inert atmosphere while magnesium turnings (0.1 mol) are added portionwise. Trimethylacetonitrile (0.1 mol) is then added, followed by dry m-xylene (100 mL). The reaction is stirred at RT for 1 h and then the diethyl ether is distilled off (oil bath temp. 130° C.). A further portion of trimethylacetonitrile (5 mL) is added and the resulting suspension is heated at reflux overnight under an atmosphere of dry nitrogen. The reaction mixture is cooled to 0° C. and a solution of concentrated hydrochloric acid (22 mL) in water (40 mL) is added slowly. The resulting solid is filtered off and dried under vacuum to give 1-(4-chlorobenzyl)-2,2-dimethyl-propylideneamine hydrochloride.

reactant | 4-Chlorobenzyl bromide | 0.1 mol | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
reactant | diethyl ether | 200 mL | C(C)OCC | C4H10O
reactant | magnesium | 0.1 mol | [Mg] | Mg
reactant | Trimethylacetonitrile | 0.1 mol | CC(C#N)(C)C | C5H9N
solvent | m-xylene | 100 mL | C1(=CC(=CC=C1)C)C | C8H10
product | 1-(4-chlorobenzyl)-2,2-dimethyl-propylideneamine hydrochloride | Cl.ClC1=CC=C(CC(C(C)(C)C)=N)C=C1 | InChI=1S/C12H16ClN.ClH/c1-12(2,3)11(14)8-9-4-6-10(13)7-5-9;/h4-7,14H,8H2,1-3H3;1H
